US05389285
N,N'-dimethyl-1,8-naphthalene diamine was first prepared and condensed with tridecanal to give 2,3-dihydro-1,3-dimethyl-2-dodecylperimidine. The 2,3-dihydroperimidine was coupled with the his diazonium salt prepared in Example 12 to give the above blue dye.

reactant | N,N'-dimethyl-1,8-naphthalene diamine | CNC1=CC=CC2=CC=CC(=C12)NC | C12H14N2
reactant | tridecanal | C(CCCCCCCCCCCC)=O | C13H26O
product | 2,3-dihydro-1,3-dimethyl-2-dodecylperimidine | CN1C(N(C2=CC=CC3=CC=CC1=C23)C)CCCCCCCCCCCC | C25H38N2
